US09035073B2
Enantiomer 1 of 3-(3,5-difluorophenyl)-3-methoxy-1-methyl pyrrolidine
A mixture of (+)-3-(3,5-difluorophenyl)-3-methoxypyrrolidine (0.02 g, 0.094 mmol) in formic acid (1 ml) and formaldehyde (37% solution in water, 1 ml) was heated at 85° C. for 5 h. The mixture was allowed to reach ambient temperature, water (5 ml) and diethyl ether was added, the phases were separated and the aqueous phase was basified by the addition of aqueous sodium hydroxide (5M). The aqueous phase was extracted twice with ethyl acetate, the combined organic phases was dried (Na2SO4) and evaporated to give the crude product which was diluted in methanol and analyzed by GCMS. MS m/z (relative intensity, 70 eV) 227 (M+, 5), 212 (29), 197 (25), 141 (42), 57 (bp).

reactant | (+)-3-(3,5-difluorophenyl)-3-methoxypyrrolidine | 0.094 mmol, 0.02 g | FC=1C=C(C=C(C1)F)C1(CNCC1)OC | C11H13F2NO
reactant | water | 5 ml | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | formic acid | 1 ml | C(=O)O | CH2O2
solvent | formaldehyde | 1 ml | C=O | CH2O
product | 3-(3,5-difluorophenyl)-3-methoxy-1-methyl pyrrolidine | FC=1C=C(C=C(C1)F)C1(CN(CC1)C)OC | C12H15F2NO
